US06492377B1
7-amino-4-ethyl-2-[(4-methoxybenzyloxy)methyl]-6-nitroso-s-triazolo[1,5-a]pyrimidin-5-one
3.7 g of the precursor (7-amino-4-ethyl-2-[(4-methoxybenzyloxy)methyl]-s-triazolo[1,5-a]pyrimidin-5-one) are dissolved in 17 ml of dimethylformamide, and 2.69 ml of isoamyl nitrite are added whilst cooling with ice. Afterwards it is stirred at ambient temperature. After the reaction is complete (about 3 hours) 34 ml of water are added at 5-10° C. The solid obtained is separated off, washed with water and diethyl ether and recrystallised from 80 ml of ethanol. 2.0 g of 7-amino-4-ethyl-2-[(4-methoxybenzyloxy)methyl]-6-nitroso-s-triazolo[1,5-a]pyrimidin-5-one are left.

reactant | 7-amino-4-ethyl-2-[(4-methoxybenzyloxy)methyl]-s-triazolo[1,5-a]pyrimidin-5-one | NC1=CC(N(C=2N1N=C(N2)COCC2=CC=C(C=C2)OC)CC)=O | C16H19N5O3
reactant | isoamyl nitrite | 2.69 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | water | 34 ml | O | H2O
solvent | dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
product | 7-amino-4-ethyl-2-[(4-methoxybenzyloxy)methyl]-6-nitroso-s-triazolo[1,5-a]pyrimidin-5-one | NC1=C(C(N(C=2N1N=C(N2)COCC2=CC=C(C=C2)OC)CC)=O)N=O | C16H18N6O4
